### PR TITLE
[Merged by Bors] - feat(Polynomial): `(a^n)' = 0` iff `a' = 0` when `n` doesn't divide the characteristic

### PR DESCRIPTION
**Pull request by seewoo5**
For a polynomial $a \in k[X]$ and $n$ with $n \ne 0$ in $k$, $(a^n)' = 0$ if and only if $a' = 0$.

---

Seperated from #18882. See [this](https://github.com/leanprover-community/mathlib4/pull/18882/files#r1893722111) comment.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Polynomial/Derivative.lean [hunk 1]
```diff
@@ -661,6 +660,26 @@ theorem dvd_derivative_iff {P : R[X]} : P ∣ derivative P ↔ derivative P = 0
...
 end NoZeroDivisors
 
+section Field
+
+variable {k : Type u} [Field k]
+
+theorem derivative_pow_eq_zero_iff {n : ℕ} (chn : (n : k) ≠ 0) {a : k[X]} :
+    derivative (a ^ n) = 0 ↔ derivative a = 0 := by
+  constructor
+  · intro apd
```
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/Derivative.lean:670]:
```suggestion
    derivative (a ^ n) = 0 ↔ derivative a = 0 where
  mp apd := by
```

File: Mathlib/Algebra/Polynomial/Derivative.lean [hunk 2]
```diff
@@ -661,6 +660,26 @@ theorem dvd_derivative_iff {P : R[X]} : P ∣ derivative P ↔ derivative P = 0
...
+    rw [derivative_pow, C_eq_natCast, mul_eq_zero, mul_eq_zero] at apd
+    rcases apd with (nz | powz) | goal
```
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/Derivative.lean:672]:
```suggestion
    rcases apd with nz | powz | goal
```

File: Mathlib/Algebra/Polynomial/Derivative.lean [hunk 3]
```diff
@@ -661,6 +660,26 @@ theorem dvd_derivative_iff {P : R[X]} : P ∣ derivative P ↔ derivative P = 0
...
+    · rw [← C_eq_natCast, C_eq_zero] at nz
+      tauto
+    · have az : a = 0 := pow_eq_zero powz
+      rw [az, map_zero]
+    · exact goal
+  · intro hd
+    rw [derivative_pow, hd, MulZeroClass.mul_zero]
```
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/Derivative.lean:679]:
```suggestion
  mpr hd := by rw [derivative_pow, hd, MulZeroClass.mul_zero]
```

File: Mathlib/Algebra/Polynomial/Derivative.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Polynomial/Derivative.lean:671]: Does this not work

Comment (seewoo5) [reply Mathlib/Algebra/Polynomial/Derivative.lean:671]: It didn't, `apd` is
```
apd : (↑n = 0 ∨ a ^ (n - 1) = 0) ∨ derivative a = 0
```

File: Mathlib/Algebra/Polynomial/Derivative.lean [hunk 4]
```diff
@@ -661,6 +660,24 @@ theorem dvd_derivative_iff {P : R[X]} : P ∣ derivative P ↔ derivative P = 0
...
+    rw [derivative_pow, C_eq_natCast, mul_eq_zero, mul_eq_zero] at apd
+    rcases apd with (nz | powz) | goal
+    · rw [← C_eq_natCast, C_eq_zero] at nz
+      tauto
+    · have az : a = 0 := pow_eq_zero powz
+      rw [az, map_zero]
+    · exact goal
+  mpr hd := by rw [derivative_pow, hd, MulZeroClass.mul_zero]
+
+end Field
```
Comment (urkud) [inline Mathlib/Algebra/Polynomial/Derivative.lean:679]:
```suggestion
section CommSemiringNoZeroDivisors

variable [CommSemiring R] [NoZeroDivisors R]

theorem derivative_pow_eq_zero_iff {n : ℕ} (chn : (n : R) ≠ 0) {a : R[X]} :
    derivative (a ^ n) = 0 ↔ derivative a = 0 := by
  nontriviality R
  rw [← C_ne_zero, C_eq_natCast] at chn
  simp +contextual [derivative_pow, or_imp, chn]

end CommSemiringNoZeroDivisors
```

File: Mathlib/Algebra/Polynomial/Derivative.lean [hunk 5]
```diff
@@ -661,6 +660,18 @@ theorem dvd_derivative_iff {P : R[X]} : P ∣ derivative P ↔ derivative P = 0
 
 end NoZeroDivisors
 
+section CommSemiringNoZeroDivisors
+
+variable [CommSemiring R] [NoZeroDivisors R]
+
+theorem derivative_pow_eq_zero_iff {n : ℕ} (chn : (n : R) ≠ 0) {a : R[X]} :
```
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/Derivative.lean:667]: The `_iff` is clear from context
```suggestion
theorem derivative_pow_eq_zero {n : ℕ} (chn : (n : R) ≠ 0) {a : R[X]} :
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Comment by kbuzzard** [comment]
Thanks!

bors merge
